US06750348B1
Reaction of Boc-aminoacetaldehyde (1.0 mmol) with N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (270 mg, 0.5 mmol) in the presence of sodium cyanoborohydride in methanol afforded N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-[2-[(t-butyloxycarbonyl)amino]ethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (248 mg, 72%). This material was then treated with trifluoroacetic acid (1 mL) in CH2Cl2 (2 mL) for 1 hour. Evaporation of the solvent afforded the primary amine in quantitative yield as the TFA salt.

reactant | Boc-aminoacetaldehyde | 1.0 mmol | C(=O)(OC(C)(C)C)C(C=O)N | C7H13NO3
reactant | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.5 mmol, 270 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CNC1CCCC=2C=CC=NC12)CC1=NC=CC=C1 | C29H29N5O4S
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | methanol | CO | CH4O
product | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-[2-[(t-butyloxycarbonyl)amino]ethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 248 mg, 72% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CCNC(=O)OC(C)(C)C)CC1=NC=CC=C1 | C36H42N6O6S
